US07691850B2
(a) 1-[3-fluoro-6-(methoxy)-1,5-naphthyridin-4-yl]-1,2-ethanediol
To a solution of AD-mixβ (50 g) in tert-butanol/water (200 mL/200 mL), cooled in an ice-bath for 30 minutes, 8-ethenyl-7-fluoro-2-(methyloxy)-1,5-naphthyridine (Preparation 6) (8 g, 39.2 mmol) was added and the reaction mixture was stirred at room temperature for 48 hours. Sodium sulfite (75 g) was added and the mixture was stirred for a further 30 minutes. It was extracted with diethyl ether then several times with 10% methanol in chloroform. The organic extract was evaporated under vacuum to afford the desired product as an oil (8.93 g, 96%). MS (+ve ion electrospray) m/z 239 (MH+); enantiomeric excess=44%, as determined by chiral analytical HPLC.

reactant | 8-ethenyl-7-fluoro-2-(methyloxy)-1,5-naphthyridine | 39.2 mmol, 8 g | C(=C)C=1C(=CN=C2C=CC(=NC12)OC)F | C11H9FN2O
reactant | Sodium sulfite | 75 g | S(=O)([O-])[O-].[Na+].[Na+]
reactant | tert-butanol water | 200 mL | C(C)(C)(C)O.O
product | 1-[3-fluoro-6-(methoxy)-1,5-naphthyridin-4-yl]-1,2-ethanediol | 8.93 g, 96% | FC=1C=NC2=CC=C(N=C2C1C(CO)O)OC | C11H11FN2O3
